US06303593B1
4-(4-Fluorobenzyloxymethyl)piperidine
To a solution of 0.89 g (2.35 mmol) of 1-t-butoxycarbonyl-4-(4-fluorobenzyloxymethyl)piperidine in 8 mL of H2O at rt was added 2 mL of TFA and the reaction mixture was stirred for 2 h. To the reaction mixture was added 50 mL of 0.5N H2SO4. After stirring vigorously for 5 min, the mixture was was washed with CH2Cl2. The aqueous fraction was made basic with solid K2CO3 and extracted with CH2Cl2. The combined organic fractions were washed with sat'd NaCl solution, dried over MgSO4 and filtered. The filtrate was concentrated to give the title compound.

reactant | 1-t-butoxycarbonyl-4-(4-fluorobenzyloxymethyl)piperidine | 2.35 mmol, 0.89 g | C(C)(C)(C)OC(=O)N1CCC(CC1)COCC1=CC=C(C=C1)F | C18H26FNO3
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | H2SO4 | 0.5N, 50 mL | OS(=O)(=O)O | H2O4S
solvent | H2O | 8 mL | O | H2O
product | 4-(4-Fluorobenzyloxymethyl)piperidine | FC1=CC=C(COCC2CCNCC2)C=C1 | C13H18FNO
